US04742052
Jones' reagent (~1 ml) was added dropwise at room temperature to a solution of 1-(di-p-anisylmethyl)-3-(1-hydroxyethyl)-4-acetoxy-2-azetidinone (0.40 g) in acetone (5 ml), followed by stirring for 10 minutes. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated to give an oily residue which was then purified by silica gel chromatography to give 1-(di-p-anisylmethyl)-3-acetyl-4-acetoxy-2-azetidinone.

reactant | Jones' reagent | ~1 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 1-(di-p-anisylmethyl)-3-(1-hydroxyethyl)-4-acetoxy-2-azetidinone | 0.40 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1OC(C)=O)C(C)O)=O)CC1=CC=C(C=C1)OC | C24H29NO6
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 1-(di-p-anisylmethyl)-3-acetyl-4-acetoxy-2-azetidinone | C(C1=CC=C(C=C1)OC)C(N1C(C(C1OC(C)=O)C(C)=O)=O)CC1=CC=C(C=C1)OC | C24H27NO6
